US04241071
1.41 g of 1-methyl-4-(α-phenyl-2-tolyl)-4-piperidinol, Example 1, is treated with 4.0 ml of acetyl chloride with cooling and stirring. The resulting suspension is stirred at ambient temperature under nitrogen for one hour and then permitted to stand for 94 hours. The mixture is diluted with 10 ml of ether and filtered. The filter cake is washed with ether and then recrystallized from absolute ethanol to give colorless crystals, mp 205°-206° C. of 4-acetoxy-1-methyl-4-(α-phenyl-2-tolyl)piperidine hydrochloride.

reactant | 1-methyl-4-(α-phenyl-2-tolyl)-4-piperidinol | 1.41 g | CN1CCC(CC1)(O)C1=C(C=CC=C1)CC1=CC=CC=C1 | C19H23NO
reactant | acetyl chloride | 4.0 ml | C(C)(=O)Cl | C2H3ClO
solvent | ether | 10 ml | CCOCC | C4H10O
product | 4-acetoxy-1-methyl-4-(α-phenyl-2-tolyl)piperidine hydrochloride | Cl.C(C)(=O)OC1(CCN(CC1)C)C1=C(C=CC=C1)CC1=CC=CC=C1 | InChI=1S/C21H25NO2.ClH/c1-17(23)24-21(12-14-22(2)15-13-21)20-11-7-6-10-19(20)16-18-8-4-3-5-9-18;/h3-11H,12-16H2,1-2H3;1H
